### PR TITLE
feat: `ω`-logarithm on `Surreal`

### PR DESCRIPTION
**Pull request by vihdzp**
We show that every surreal number is commensurate to some power of `ω`, and use this to define a base `ω` logarithm.

### CODE REVIEW

File: CombinatorialGames/Surreal/Pow.lean [hunk 1]
```diff
@@ -368,43 +401,333 @@ theorem mk_wpow (x : IGame) [Numeric x] : mk (ω^ x) = ω^ (mk x) :=
...
+theorem mk_wpow_le_mk_wpow_iff : ArchimedeanClass.mk (ω^ x) ≤ ArchimedeanClass.mk (ω^ y) ↔ y ≤ x :=
+  mk_wpow_strictAnti.le_iff_ge
+
+/-- `ω^ x` and `ω^ y` are commensurate iff `x = y`. -/
+@[simp]
+theorem mk_wpow_inj : ArchimedeanClass.mk (ω^ x) = ArchimedeanClass.mk (ω^ y) ↔ x = y :=
+  mk_wpow_strictAnti.injective.eq_iff
+
+private theorem mk_lt_mk_of_ne {x : IGame} [Numeric x] (h : 0 < x)
+    (Hl : ∀ y (h : y ∈ xᴸ), 0 < y → have := Numeric.of_mem_moves h;
```
Comment (plp127) [inline CombinatorialGames/Surreal/Pow.lean:484]: I'm wondering if there's a better way to infer numeric in this section

Comment (vihdzp) [reply CombinatorialGames/Surreal/Pow.lean:484]: I could take a subtype argument rather than unbundle the membership argument, but that somehow seems less elegant.

File: CombinatorialGames/Mathlib/Dyadic.lean [hunk 2]
```diff
@@ -346,6 +346,11 @@ instance : DenselyOrdered Dyadic where
     · simpa [inv_mul_eq_div] using left_lt_add_div_two.2 h
     · simpa [inv_mul_eq_div] using add_div_two_lt_right.2 h
 
+instance : Archimedean Dyadic where
+  arch x y h := by
+    obtain ⟨n, hn⟩ := exists_lt_nsmul (M := ℚ) h x
+    exact ⟨n, hn.le⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Mathlib/Dyadic.lean]:
```suggestion
  arch x _y h :=
    have ⟨n, hn⟩ := exists_lt_nsmul (M := ℚ) h x
    ⟨n, hn.le⟩
```

File: CombinatorialGames/Surreal/Pow.lean [hunk 3]
```diff
@@ -3,34 +3,63 @@ Copyright (c) 2025 Violeta Hernández Palacios. All rights reserved.
...
 - Prove that `ω^ x` matches ordinal exponentiation for ordinal `x`.
-- Define commensurate surreals and prove properties relating to `ω^ x`.
 - Define the normal form of a surreal number.
 -/
 
 universe u
 
 open Set
 
+/-! ## For Mathlib-/
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Pow.lean]:
```suggestion
/-! ## For Mathlib -/
```

File: CombinatorialGames/Surreal/Pow.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Surreal/Pow.lean:484]: Especially since this theorem is private, this seems fine.

**Review by tristan-f-r — APPROVED** [review]
